US05470896
100 ml of methanol and 10 g (0.05 mol) of N,N-dimethylphenylalanine (prepared in accordance with Y. Ikutani, Bull. Chem. Soc. Jpn. 41, 1679 (1968)) are placed in a 350 ml sulfonating flask having an anchor mixer, thermometer, reflux condenser and gas introduction tube and, with stirring, saturated with HCl gas. The solution is stirred at reflux for 8 hours, then cooled, and the solvent is evaporated in a rotary evaporator. The residue is taken up in 250 ml of methylene chloride and washed first with 10% aqueous NaHCO3 solution and then with H2O until neutral. The reaction mixture is then dried over MgSO4, filtered and concentrated by evaporation. The residue is purified by flash chromatography (hexane/ethyl acetate=7:3), yielding 5.0 g of N,N-dimethylphenylalanine methyl ester in the form of a slightly yellow liquid. NMR analysis and IR spectrum agree with the said structure.

reactant | N,N-dimethylphenylalanine | 0.05 mol, 10 g | CN([C@@H](CC1=CC=CC=C1)C(=O)O)C | C11H15NO2
reactant | HCl | Cl | ClH
reactant | methanol | 100 ml | CO | CH4O
product | N,N-dimethylphenylalanine methyl ester | 5.0 g | COC([C@@H](N(C)C)CC1=CC=CC=C1)=O | C12H17NO2
